US04543257
Step B: trans 1-(o-nitrobenzyloxycarbonyltriphenylphosphoranylmethyl)-3-(1-o-nitrobenzyloxycarbonylaminoethyl)-4-(chlorocarbonylmethyl)-2-azetidinone
1-(o-nitrobenzyloxycarbonyltriphenylphosphoranylmethyl)-3-(1-o-nitrobenzyloxycarbonylaminoethyl)-4-(carboxymethyl)-2-azetidinone (0.1320 g from the previous step) is dissolved in 5 ml CH2Cl2 and cooled to 0° under N2. Oxalyl chloride (0.040 ml, 0.44 mmole) is added dropwise over 5 minutes and then 1 drop of DMF is added. The mixture is stirred at 0° for 5 minutes and then at 25° C. for another 15 minutes. The solvent and excess oxalyl chloride are evaporated under reduced pressure. The residue is the desired acid chloride which is used without purification in the next step.

reactant | 1-(o-nitrobenzyloxycarbonyltriphenylphosphoranylmethyl)-3-(1-o-nitrobenzyloxycarbonylaminoethyl)-4-(carboxymethyl)-2-azetidinone | [N+](=O)([O-])C1=C(COC(=O)C(N2C(C(C2CC(=O)O)C(C)NC(=O)OCC2=C(C=CC=C2)[N+](=O)[O-])=O)P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C42H39N4O11P
reactant | Oxalyl chloride | 0.44 mmole, 0.040 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | trans 1-(o-nitrobenzyloxycarbonyltriphenylphosphoranylmethyl)-3-(1-o-nitrobenzyloxycarbonylaminoethyl)-4-(chlorocarbonylmethyl)-2-azetidinone | [N+](=O)([O-])C1=C(COC(=O)C(N2C([C@H]([C@@H]2CC(=O)Cl)C(C)NC(=O)OCC2=C(C=CC=C2)[N+](=O)[O-])=O)P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C42H38ClN4O10P
